US06852727B2
Step C: 4-[2-tert-butyl-4-(4-fluorophenyl)-1-hydroxy-1H-imidazol-5-yl]pyridin-2(1H)-one
To a solution of 1-(4-fluorophenyl)-2-(2-fluoropyridin-4-yl)ethane-1,2-dione 2-oxime (47.3 g, 0.18 mol) in acetic acid (1 L) under nitrogen was added trimethylacetaldehyde (21.6 mL, 0.19 mol) followed by ammonium acetate (277.5 g, 3.6 mol) and then it was heated to reflux for three hours. The acetic acid was removed under reduced pressure and the remaining material was taken up in water. The pH of the solution was adjusted to 8-10 by addition of solid ammonium hydroxide and was extracted with EtOAc. The solvent was removed under reduced pressure and the crude product was dissolved in methanol with sufficient ethanol added to effect dissolution. The solvent was removed under reduced pressure; the product was twice dissolved in ethanol and concentrated to a small volume under reduced pressure to azeotropically remove water. The title compound was recrystallized from ethanol and hexane (28.8 g).

reactant | 1-(4-fluorophenyl)-2-(2-fluoropyridin-4-yl)ethane-1,2-dione 2-oxime | 0.18 mol, 47.3 g | FC1=CC=C(C=C1)C(C(=NO)C1=CC(=NC=C1)F)=O | C13H8F2N2O2
reactant | trimethylacetaldehyde | 0.19 mol, 21.6 mL | CC(C=O)(C)C | C5H10O
reactant | ammonium acetate | 3.6 mol, 277.5 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 1 L | C(C)(=O)O | C2H4O2
product | 4-[2-tert-butyl-4-(4-fluorophenyl)-1-hydroxy-1H-imidazol-5-yl]pyridin-2(1H)-one | C(C)(C)(C)C=1N(C(=C(N1)C1=CC=C(C=C1)F)C1=CC(NC=C1)=O)O | C18H18FN3O2
